US09447091B2
a) N-(2′,4′-difluoro-5-((6-bromo)-3H-imidazo[4,5-b]pyridin-3-yl)-[1,1′-biphenyl]-3-yl)-N,N′-dimethylsulfuric diamide
To a solution of N-(2′,4′-difluoro-5-((6-bromo)-3H-imidazo[4,5-b]pyridin-3-yl)-[1,1′-biphenyl]-3-yl)amine (3.0 g, 7.48 mmol) in DCM (10 ml) was added pyridine (3 ml, 37.9 mmol, 2 eq.) followed by dimethylsulfamoyl chloride (1.6 g, 11.22 mmol, 1.5 eq.). The mixture was stirred for 16 h and quenched and extracted as in Example 1(d). The solvent was distilled off to afford the crude product which was purified by preparative HPLC to give the title product in 55% yield (2.1 g).

reactant | N-(2′,4′-difluoro-5-((6-bromo)-3H-imidazo[4,5-b]pyridin-3-yl)-[1,1′-biphenyl]-3-yl)amine | 7.48 mmol, 3.0 g | FC1=C(C=CC(=C1)F)C1=CC(=CC(=C1)N1C=NC=2C1=NC=C(C2)Br)N | C18H11BrF2N4
reactant | pyridine | 37.9 mmol, 3 ml, 2 eq. | N1=CC=CC=C1 | C5H5N
reactant | dimethylsulfamoyl chloride | 11.22 mmol, 1.6 g, 1.5 eq. | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(2′,4′-difluoro-5-((6-bromo)-3H-imidazo[4,5-b]pyridin-3-yl)-[1,1′-biphenyl]-3-yl)-N,N′-dimethylsulfuric diamide | 55% yield | FC1=C(C=CC(=C1)F)C1=CC(=CC(=C1)N1C=NC=2C1=NC=C(C2)Br)N(S(NC)(=O)=O)C | C20H16BrF2N5O2S
